US07560558B2
Compound 280: 4-(2-Cyclopentyloxy-quinolin-3-yloxy)-6,7-dimethoxy-quinoline
6,7-Dimethoxy-4-(2-hydroxy-quinolin-3-yloxy)-quinoline (19 mg) was dissolved in N,N-dimethylformamide (4 ml) to prepare a solution. Potassium carbonate (180 mg) and cyclopentyl bromide (0.1 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography using acetone-chloroform to give the title compound (14 mg, yield 60%).

reactant | 6,7-Dimethoxy-4-(2-hydroxy-quinolin-3-yloxy)-quinoline | 19 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC2=CC=CC=C2C1)O | C20H16N2O4
reactant | Potassium carbonate | 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopentyl bromide | 0.1 ml | C1(CCCC1)Br | C5H9Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-(2-Cyclopentyloxy-quinolin-3-yloxy)-6,7-dimethoxy-quinoline | 14 mg, yield 60% | C1(CCCC1)OC1=NC2=CC=CC=C2C=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C25H24N2O4
